US04448962
A mixture of 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid (0.96 g) (3 millimole), iodoethyl (0.94 g) (6 millimole), triethylamine (0.6 g) (6 millimole) and 10 ml DMF was heated to 70° to 80° C. for 2.5 hours under stirring. After cooling, the reaction mixture was evaporated under vacuum and the residue was dissolved in dichloromethane, washed with water, dried over anhydrous Na2SO4 and the solvent was removed. The residue was recrystallized from a mixture of CHCl3 and benzene to obtain 0.75 g (72%) of 1-ethyl-6-fluoro-7-(4-ethyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid.

reactant | 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 3 millimole, 0.96 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | triethylamine | 6 millimole, 0.6 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-6-fluoro-7-(4-ethyl-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 0.75 g, 72% | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CC)F)=O)C(=O)O | C18H22FN3O3
